Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None at ___
 
History of Present Illness:
___ with history of HCV cirrhosis, EtOH abuse. Developed 
worsening jaundice in nursing home a/w dyspnea and feeling 
generally unwell. Brought to ___ where systolic BP 
___ with positive UA. Started on IV CTX. R CVL placed and 
started on levophed/vasopressin. Was hyperkalemic and given IV 
insulin/dextrose. Transferred to ___. He is DNR/DNI.

At ___ ED: 
- Initial vs: 96.7 130 98/53 20 99% 3L NC, glucose < 20
- Exam with jaundice, rales bilateral bases, and soft abdomen. 
He had labored breathing on 5L NC and placed on bipap. 
- Labs notable for WBC 67.8, Na 126, K 7.6, CO2 6, BUN 109, Cr 
4.8, Lactate 6.6. VBG ___. UA positive many bac, > 182 
WBC, RBC 114.
- Imaging notable for: CXR with bilateral patchy airspace 
opacities
- EKG with peaked T waves
- bedside ultrasound did not reveal any ascites

He was continued on levophed/vasopressin, started IV 
vanc/cefepime, given insulin/D5/Calcium, started Lasix gtt and 
bicarb gtt.

Hepatology and renal consulted. Discussions around dialysis 
initiated. No definitive decisions made. 

 
Past Medical History:
Hep C

 
Social History:
___
Family History:
unable to obtain
 
Pertinent Results:
___ 06:28PM BLOOD WBC-67.8* RBC-3.39* Hgb-11.3* Hct-34.8* 
MCV-103* MCH-33.3* MCHC-32.5 RDW-18.5* RDWSD-70.2* Plt Ct-UNABLE 
TO 
___ 06:28PM BLOOD Neuts-87* Bands-6* ___ Monos-6 Eos-1 
Baso-0 ___ Myelos-0 NRBC-1* AbsNeut-55.01* 
AbsLymp-0.99* AbsMono-7.11* AbsEos-0.25 AbsBaso-0.04
___ 06:28PM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+* 
Macrocy-2+* Microcy-NORMAL Polychr-NORMAL Burr-1+*
___ 06:28PM BLOOD ___ PTT-41.4* ___
___ 06:28PM BLOOD Glucose-66* UreaN-109* Creat-4.8* Na-126* 
K-7.6* Cl-93* HCO3-6* AnGap-27*
___ 06:28PM BLOOD Albumin-2.4* Calcium-7.9* Phos-9.0* 
Mg-2.8*
___ 06:28PM BLOOD ALT-55* AST-134* CK(CPK)-66 AlkPhos-543* 
TotBili-27.3*
___ 06:28PM BLOOD Lipase-44
___ 06:28PM BLOOD cTropnT-<0.01
___ 06:28PM BLOOD CK-MB-4
___ 06:28PM BLOOD Osmolal-315*
___ 09:07PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
EtGlycl-LESS THAN  Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:41PM BLOOD ___ pO2-49* pCO2-28* pH-7.06* 
calTCO2-8* Base XS--22
___ 06:41PM BLOOD Lactate-6.6* K-7.3*
___ 06:55PM URINE Color-DkAmb* Appear-Cloudy* Sp ___
___ 06:55PM URINE Blood-MOD* Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-LG* Urobiln-2* pH-6.0 Leuks-LG*
___ 06:55PM URINE RBC-114* WBC->182* Bacteri-MANY* 
Yeast-NONE Epi-0
___ 06:55PM URINE Hours-RANDOM Creat-119 Na-27 K-63 
TotProt-527 Prot/Cr-4.4*
___ 06:55PM URINE Osmolal-330
___ 06:55PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
History limited due to lack of records. Obtained through report 
by ___ and discussion with family. 

___ with HCV and alcoholic cirrhosis, living in ___ for past ___ 
years. Had been doing well. Pt’s sister, ___, saw him 2 days 
ago and he looked well, ambulating, lucid, energetic. Day of 
admission he was noted to be markedly jaundiced and swollen by 
NH and sent to ___. Labs sig for:

severe metabolic acidosis, pH 7.06 and bicarb 6

severe leukocytosis with bandemia

severe ___ with hyperkalemia

TBili 27

Hypoglycemic to 20

severe septic shock with UTI

RUQ US showed reversal of flow, did not comment on thrombosis

thrombocytopenia (plt was 14 at OSH, unable to repeat here)

 

progressive acute hypoxic resp failure since arrival in ED

jaundiced

edematous

abd distended, soft, tympanic

I did bedside US with ED attending and we saw no ascites to tap

I examined and interviewed Mr ___ in ED and met with his 
family there. He was able to answer questions and recognized his 
family, though he was also having periods of unintelligible 
speech. 

Exam sig for belching, no cough, no resp distress, difficult 
auscultation due to talking and shallow breaths, + asterixis

Did not tolerate BiPAP in ED.

 

I met with pt’s family in ED: sister ___, brother ___ and 
___ wife, ___ as well as nephew ___. The were alarmed by 
the severity of his illness but also understood, aware of his 
underlying morbidity. I learned about Mr ___ and also tried 
to get a sense of his wishes regarding goals of care. They had a 
sense that he would not want very aggressive interventions but 
were questioning. This was corroborated when we found MOLST form 
signed in ___ that specifically identified no CPR, no 
intubation and no dialysis. I called family (they asked me to 
speak first with ___, though they said they made decisions 
together) to inform them of the MOLST and she said that was a 
relief.

 

After arrival in MICU Mr ___ became more dyspneic. 
Oxygenation worsened, became unresponsive and finally 
bradycardic before PEA arrest.

 

Critically ill

Time spent with patient as well as with his family and 
discussing with ED and MICU team 105 minutes

 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Septic shock
 
Discharge Condition:
expired
 
Discharge Instructions:
 
 
Followup Instructions:
___